US06413938B1
D. 5,6-Dichloro-1-(3-acetyl-2,5-dideoxy-2-fluoro-beta-D-ribofuranosyl)-1H-benzimidazole
5,6-Dichloro-1-(2,5-dideoxy-2-fluoro-beta-D-ribofuranosyl)-1H-benzimidazole (0.45 g, 1.5 mmoles) was dissolved in pyridine (Aldrich, Sure Seal, 20 mL) and boiled to remove water. The solution was chilled to 0° C. in an ice bath. Acetic anhydride (Aldrich, 260 μL, 2.9 mmoles, 2 eq.) was added and the reaction was allowed to warm to room temperature while stirring overnight. Methanol (3 mL) was added and the solvents removed in vacuo. Residual pyridine was removed by coevaporation with toluene (3×). The residue was partitioned between water and ethyl acetate. The ethyl acetate solution was dried with MgSO4, filtered, and the solvent removed in vacuo. The product was used without further purification. The yield was 0.45 g, 88%. MS (FAB+): m/z, 347; 1H NMR (DMSO-d6) δ8.61 (s,1H, H-2), 8.08 (s,1H, Ar—H), 8.00 (s,1H, Ar—H), 6.38 (d, 1H, H-1′, J=18 Hz), 5.70 (d, 1H, H-2′, J=53 Hz), 5.1 (m, 1H), 4.2 (m, 1H), 2.1 (s, 3H, acetyl), 1.38 (d, 3H, H-5′, J=6 Hz).

reactant | 5,6-Dichloro-1-(2,5-dideoxy-2-fluoro-beta-D-ribofuranosyl)-1H-benzimidazole | 1.5 mmoles, 0.45 g | ClC1=CC2=C(N(C=N2)[C@H]2[C@@H]([C@H](O)[C@H](O2)C)F)C=C1Cl | C12H11Cl2FN2O2
reactant | Acetic anhydride | 2.9 mmoles, 260 μL, 2 eq. | C(C)(=O)OC(C)=O | C4H6O3
reactant | Methanol | 3 mL | CO | CH4O
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 5,6-Dichloro-1-(3-acetyl-2,5-dideoxy-2-fluoro-beta-D-ribofuranosyl)-1H-benzimidazole | ClC1=CC2=C(N(C=N2)[C@H]2[C@@H]([C@](O)([C@H](O2)C)C(C)=O)F)C=C1Cl | C14H13Cl2FN2O3
